US20010014751A1
(b) Preparation of the zirconocene
The above obtained dianion was suspended in toluene and cooled to −20° C.; to the obtained mixture were added 0.28 g (1.19 mmol; 1.05 equivalents) of ZrCl4. The reaction mixture was maintained under stirring for 16 hours, at 20° C.; then it was centrifuged and the toluene layer was discarded. The remaining powder was washed with toluene (20 mL) and then extracted with CH2Cl2, in order to separate the product from LiCl. A pure mixture of rac and meso-isomers of 1,2-ethylene-bis(4-phenyl-2-indenyl)zirconium dichloride was obtained, in the form of a yellow powder. By crystallization from toluene, the meso isomer could be completely separated from the rac-isomer. The rac-isomer was obtained as a rac:meso mixture of about 4: 1.

reactant | ZrCl4 | 1.19 mmol, 0.28 g, 1.05 equivalents | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | zirconocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2] | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
